US06531613B1
A 500 ml three neck round bottom flask was equipped with a mechanical stirrer, heating mantle and condenser. To the flask was added 28.5 g 2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one, 15 g N-bromosuccinimide and 160 g DMF. The mixture was agitated well, heated to 50° C. and held at 50° C. for two hours. The mixture was cooled to 0° C. and, after several hours, the mixture was filtered to recover the solid product. The solid was suspended in 250 g water, stirred well and filtered. The yellow solid product was dried in a 50° C. oven for ten hours to give 27.1 g of 3-bromo-2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one with melting point of 85-88° C.

reactant | 2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one | 28.5 g | C(C)C(COC1=CC2=C3C(C=CC=C3C(C=3C=CC=CC23)=O)=C1)CCCC | C25H26O2
reactant | N-bromosuccinimide | 15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 160 g | CN(C)C=O | C3H7NO
product | 3-bromo-2-[(2-ethylhexyl)oxy]-7H-benzo[de]anthracene-7-one | 27.1 g | BrC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OCC(CCCC)CC | C25H25BrO2
